US08466289B2
Synthesis of Intermediate 7-(2-Fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one (I-7e)
A stirred solution of 7-(2-fluoro-4-trimethylsilanyl-phenylamino)-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one (0.25 g, 0.66 mmol) in dry DCM (10 mL) and iodine monochloride (0.8 mL) were added to silver tetrafluoroborate (0.4 g, 2.05 mmol) in DCM (10 mL) previously degassed with nitrogen for 30 minutes at −50° C. The resulting mixture was stirred at −50° C. for 1 hour. The reaction was monitored by TLC (50% ethylacetate in hexane). This was followed by the addition of 20 mL of sodium thiosulphate and filtered through celite. The filtrate was concentrated to afford 0.2 g of the product (70% yield).

reactant | 7-(2-fluoro-4-trimethylsilanyl-phenylamino)-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one | 0.66 mmol, 0.25 g | FC1=C(C=CC(=C1)[Si](C)(C)C)NC=1C(=C2N(C(C1C)=O)CCO2)[N+](=O)[O-] | C17H20FN3O4Si
reactant | iodine monochloride | 0.8 mL | ICl | ClI
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | silver tetrafluoroborate | 2.05 mmol, 0.4 g | F[B-](F)(F)F.[Ag+]
product | 7-(2-Fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one | 0.2 g, 70% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)[N+](=O)[O-] | C14H11FIN3O4
